US05102891
1-(Propyl-4-pyridinylamino)-1H-indol-5-yl phenylmethylcarbamate
Benzyl isocyanate (2 g) was added to a solution of 1-(propyl-4-pyridinylamino)-1H-indol-5-ol (3.3 g) in 75 mL tetrahydrofuran containing potassium carbonate (milled, 3 g). After stirring twenty hours at ambient temperature, the mixture was filtered and the filtrate was concentrated. The residue was eluted through silica with ethyl acetate via flash column chromatography to yield 5 g of the product as a solid, m.p. 156°-158° C. The product was recrystallized from acetonitrile to yield 3.8 g of crystals, m.p. 162°-164° C.

reactant | Benzyl isocyanate | 2 g | C(C1=CC=CC=C1)N=C=O | C8H7NO
reactant | 1-(propyl-4-pyridinylamino)-1H-indol-5-ol | 3.3 g | C(CC)N(N1C=CC2=CC(=CC=C12)O)C1=CC=NC=C1 | C16H17N3O
reactant | potassium carbonate | 3 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | 1-(Propyl-4-pyridinylamino)-1H-indol-5-yl phenylmethylcarbamate | 5 g | C1(=CC=CC=C1)CNC(OC=1C=C2C=CN(C2=CC1)N(C1=CC=NC=C1)CCC)=O | C24H24N4O2
